US07749992B2
Step 2. Preparation of 2-Isopropoxycarbonylamino-6-methyl-benzoic acid methyl ester
Add isopropyl chloroformate (19.8 mL, 19.8 mmol, 1.0 M in toluene) dropwise to a solution of 2-Amino-6-methyl-benzoic acid methyl ester (3.27 g, 19.8 mmol) and pyridine (4.0 mL, 50 mmol) in dichloromethane (39 mL) at 0° C. under an atmosphere of nitrogen and stir at room temperature for 14 h. Add 1M HCl and separate the layers. Extract the aqueous layer with dichloromethane. Dry the organic layer over anhydrous sodium sulfate, filter, and remove the solvent under reduced pressure. Purify the residue by flash chromatography, eluting with hexanes/ethyl acetate, to afford the title compound (3.80 g, 76%): 1H NMR (CDCl3) δ 1.29 (d, J=6.5 Hz, 6H), 2.43 (s, 3H), 3.94 (s, 3H), 5.00 (septuplet, J=6.5 Hz, 1H), 6.90 (d, J=8.1 Hz, 1H), 7.32 (t, J=8.1 Hz, 1H), 8.07 (d, J=8.1 Hz, 1H), 8.86 (brs, 1H). MS (ES+): 252 (M+H).

reactant | isopropyl chloroformate | 19.8 mmol, 1.0 M, 19.8 mL | ClC(=O)OC(C)C | C4H7ClO2
reactant | 2-Amino-6-methyl-benzoic acid methyl ester | 19.8 mmol, 3.27 g | COC(C1=C(C=CC=C1C)N)=O | C9H11NO2
reactant | pyridine | 50 mmol, 4.0 mL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1M | Cl | ClH
solvent | dichloromethane | 39 mL | ClCCl | CH2Cl2
product | 2-Isopropoxycarbonylamino-6-methyl-benzoic acid methyl ester | 3.80 g, 76% | COC(C1=C(C=CC=C1C)NC(=O)OC(C)C)=O | C13H17NO4
